US06531502B1
Tetrakis(triphenylphosphine)palladium(0) (0.36 g) was added to a solution of 4,5-dimethoxy-2-bromobenzaldehyde (2.5 g) in toluene (20 ml) and ethanol (20 ml), followed by addition of 2M aqueous sodium carbonate (20 ml). To this mixture was added 3-methoxyphenylboronic acid (1.7 g), and the mixture was heated to reflux. After 1 hour, the reaction was partitioned between water (150 ml) and ethyl acetate (300 ml). The organic layer was washed with saturated aqueous sodium bicarbonate (150 ml) and brine (150 ml), dried over magnesium sulfate and concentrated. Chromatography (silica, 20-30-40% ethyl acetate/hexanes) afforded 2.7 g (98%) of 2-(3-methoxyphenyl)-4,5-dimethoxybenzaldehyde as a yellow oil which solidified upon standing.

reactant | 4,5-dimethoxy-2-bromobenzaldehyde | 2.5 g | COC1=CC(=C(C=O)C=C1OC)Br | C9H9BrO3
reactant | sodium carbonate | 2M, 20 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3-methoxyphenylboronic acid | 1.7 g | COC=1C=C(C=CC1)B(O)O | C7H9BO3
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.36 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(3-methoxyphenyl)-4,5-dimethoxybenzaldehyde | 2.7 g, 98% | COC=1C=C(C=CC1)C1=C(C=O)C=C(C(=C1)OC)OC | C16H16O4
